US06831193B2
N-[4-fluoro-3-(trifluoromethyl)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
4-Fluoro-3-(trifluoromethyl)benzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4-Fluoro-3-(trifluoromethyl)benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[4-fluoro-3-(trifluoromethyl)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | FC1=C(C=C(CN[C@H]2CCCC3=CC=CC=C23)C=C1)C(F)(F)F | C18H17F4N
